US04259333
A. Pivaloyloxymethyl 7-[(4-(3-azidopropyl)-1-piperidyl)-methyleneamino]-3-methyl-3-cephem-4-carboxylate
A solution of N-formyl-4-(3-azidopropyl)-piperidine (1.13 g) in alcohol-free chloroform (2.5 ml) was cooled to -20° C. and oxalyl chloride (0.44 ml) in alcohol-free chloroform (2.5 ml) was added dropwise. After 1 hour at -20° C. the solution was added dropwise at -60° C. to -70° C. to a stirred solution of pivaloyloxymethyl 7-amino-3-methyl-3-cephem-4-carboxylate (1.72 g) in alcohol-free chloroform (12 ml). Triethylamine (1.46 ml) was added and within the next hour the temperature was gradually raised to -10° C. The solvent was evaporated and the residue was extracted with ether. The ether extract was evaporated to leave an oil, which was purified by column chromatography on Sephadex to yield the desired compound as a yellow oil.

reactant | N-formyl-4-(3-azidopropyl)-piperidine | 1.13 g | C(=O)N1CCC(CC1)CCCN=[N+]=[N-] | C9H16N4O
reactant | oxalyl chloride | 0.44 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | pivaloyloxymethyl 7-amino-3-methyl-3-cephem-4-carboxylate | 1.72 g | NC1[C@@H]2N(C(=C(CS2)C)C(=O)OCOC(C(C)(C)C)=O)C1=O | C14H20N2O5S
solvent | Triethylamine | 1.46 ml | C(C)N(CC)CC | C6H15N
product | Pivaloyloxymethyl 7-[(4-(3-azidopropyl)-1-piperidyl)-methyleneamino]-3-methyl-3-cephem-4-carboxylate | N(=[N+]=[N-])CCCC1CCN(CC1)C=NC1[C@@H]2N(C(=C(CS2)C)C(=O)OCOC(C(C)(C)C)=O)C1=O | C23H34N6O5S
